US04973592
To an ice-cooled solution of 1-phenyl-1-cyclohexyl-3-cyano-1-propanol (1.4 g) in anhydrous tetrahydrofuran (THF), a solution of HCl 10% w/v in ether (2.5 ml) was added dropwise. The mixture was stirred and cooled for 48 hours. The solvent was removed and the residue triturated with diethyl ether/THF to afford 0.8 g of 2-imino-5-phenyl-5-cyclohexyltetrahydrofuran hydrochloride. M.p. 100°-102° C.

reactant | 1-phenyl-1-cyclohexyl-3-cyano-1-propanol | 1.4 g | C1(=CC=CC=C1)C(CCC#N)(O)C1CCCCC1 | C16H21NO
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 2.5 ml | CCOCC | C4H10O
product | 2-imino-5-phenyl-5-cyclohexyltetrahydrofuran hydrochloride | 0.8 g | Cl.N=C1OC(CC1)(C1CCCCC1)C1=CC=CC=C1 | InChI=1S/C16H21NO.ClH/c17-15-11-12-16(18-15,13-7-3-1-4-8-13)14-9-5-2-6-10-14;/h1,3-4,7-8,14,17H,2,5-6,9-12H2;1H
